* source EXP1
X_U1         N00092 N00213 VCC VDD VO uA741
R_R1         VA N00213  20k TC=0,0 
V_V2         VDD 0 -10Vdc
V_V3         VCC 0 10Vdc
R_Rf         N00213 VO  100k TC=0,0 
R_R8         0 N00092  100k TC=0,0 
R_R9         N00092 VB  20k TC=0,0 
V_V4         VA 0  AC 1
+SIN 0 0.5 5k 0 0 0
V_V5         VB 0 0.5Vdc
